US08685969B2
A solution of benzyl 3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitropropyl)-2-methylphenylcarbamate (1.6194 g, 3.13 mmol), ammonium acetate (2.51 g, 46.9 mmol) and zinc (3.07 g, 46.9 mmol) in methanol (Ratio: 1.000, Volume: 57.9 ml) and tetrahydrofuran (Ratio: 1.000, Volume: 57.9 ml) was stirred under nitrogen. After 5 h, the reaction was diluted with EtOAc and filtered through a wad of CELITE®. The filtrate was concentrated in vacuo, and the residue was dissolved in EtOAc (75 mL) and saturated aqueous NaHCO3 (30 mL). The layers were separated, and the aqueous layer was extracted with EtOAc (2×75 mL). The organic layers were combined, dried over MgSO4, filtered and concentrated in vacuo to give benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)propyl)-2-methylphenylcarbamate (1.3975 g, 2.87 mmol, 92% yield, mixture of 2 isomers) as a colorless oil, LC/MS (M+H)=488.30, 488.30.

reactant | benzyl 3-(1-(6-(2-methoxyethoxy)-1H-indol-3-yl)-2-nitropropyl)-2-methylphenylcarbamate | 3.13 mmol, 1.6194 g | COCCOC1=CC=C2C(=CNC2=C1)C(C(C)[N+](=O)[O-])C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C | C29H31N3O6
reactant | ammonium acetate | 46.9 mmol, 2.51 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 57.9 ml | CO | CH4O
solvent | tetrahydrofuran | 57.9 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc | 46.9 mmol, 3.07 g | [Zn] | Zn
product | benzyl 3-(2-amino-1-(6-(2-methoxyethoxy)-1H-indol-3-yl)propyl)-2-methylphenylcarbamate | 2.87 mmol, 1.3975 g, 92% yield | NC(C(C1=CNC2=CC(=CC=C12)OCCOC)C=1C(=C(C=CC1)NC(OCC1=CC=CC=C1)=O)C)C | C29H33N3O4
